US06673795B2
In analogy to the procedure described in example 47a, the crude 4-chloro-6-(2-hydroxy-ethylamino)-2-methanesulfonyl-pyrimidine-5-carbonitrile was treated with amino-methyl-cyclopropane in dioxane in the presence of N-ethyl-diisopropylamine at 40° C. to yield 4-chloro-2-(cyclopropylmethyl-amino)-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=268.

reactant | 4-chloro-6-(2-hydroxy-ethylamino)-2-methanesulfonyl-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)S(=O)(=O)C | C8H9ClN4O3S
reactant | amino-methyl-cyclopropane | NC1(CC1)C | C4H9N
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(cyclopropylmethyl-amino)-6-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCC1CC1 | C11H14ClN5O
